US07955664B2
4.4 (6-Fluoro-3-pentylchroman-7-ylmethyl)triphenylphosphonium bromide
11.0 g (34.9 mmol) of 7-bromomethyl-6-fluoro-3-pentylchroman and 9.20 g (35.1 mmol) of triphenylphosphine are dissolved in 70 ml of acetonitrile, and the mixture is stirred overnight at room temp. The batch is subsequently cooled to 0° C., and the precipitated (6-fluoro-3-pentylchroman-7-ylmethyl)triphenylphosphonium bromide is filtered off with suction and dried in vacuo.

reactant | 7-bromomethyl-6-fluoro-3-pentylchroman | 34.9 mmol, 11.0 g | BrCC1=C(C=C2CC(COC2=C1)CCCCC)F | C15H20BrFO
reactant | triphenylphosphine | 35.1 mmol, 9.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | (6-Fluoro-3-pentylchroman-7-ylmethyl)triphenylphosphonium bromide | [Br-].FC=1C=C2CC(COC2=CC1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCCC | InChI=1S/C33H35FOP.BrH/c1-2-3-7-14-26-21-27-22-32(34)28(23-33(27)35-24-26)25-36(29-15-8-4-9-16-29,30-17-10-5-11-18-30)31-19-12-6-13-20-31;/h4-6,8-13,15-20,22-23,26H,2-3,7,14,21,24-25H2,1H3;1H/q+1;/p-1
